US07572808B2
F. Preparation of 7-(4-chlorophenyl)-5-methyl-6-phenyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (17 mg, 68%) as a light yellow powder was prepared from 6-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (25 mg, 0.05 mmol) and phenylboronic acid (25 mg, 0.2 mmol) by procedures analogous to those used for the preparation of 4-(2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-8-phenyl-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile. HPLC/MS: retention time=4.14 min, [M+H]+=495.3.

reactant | 6-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 25 mg | BrC=1C(=CC=2N(C1C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C20H13BrClF3N4O
reactant | phenylboronic acid | 0.2 mmol, 25 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-(2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-8-phenyl-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | CC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=CC=C2)C2=CC=C(C#N)C=C2)C1=O)C(F)(F)F | C27H18F3N5O
product | 7-(4-chlorophenyl)-5-methyl-6-phenyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 17 mg, 68% | ClC1=CC=C(C=C1)C1=CC=2N(C(=C1C1=CC=CC=C1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C26H18ClF3N4O
